US08557876B2
1,1,3,3-Tetramethyl-octahydro-inden-4-one is first prepared by hydrogenating 1,1,3,3-tetramethyl-1,2,3,5,6,7-hexahydro-inden-4-one (prepared as described in U.S. Pat. No. 3,927,083) with Pd/C in alcohol in a Parr Hydrogenator at 25-60° C. and under 500 psi of hydrogen gas. A 100 mL reaction flask is the charged with 1,1,3,3-tetramethyl-octahydro-inden-4-one (10 g, 0.05 mol), formamidine acetate (27 g, 0.26 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 1,1,3,3-tetramethyl-2,3,3a,4,5,9b-hexahydro-1H-7,9-diaza-cyclopenta[a]naphthalene (˜5 g) is obtained.

reactant | 1,1,3,3-Tetramethyl-octahydro-inden-4-one | CC1(CC(C2C(CCCC12)=O)(C)C)C | C13H22O
reactant | 1,1,3,3-tetramethyl-1,2,3,5,6,7-hexahydro-inden-4-one | CC1(CC(C=2C(CCCC12)=O)(C)C)C | C13H20O
reactant | hydrogen | [H][H] | H2
reactant | 1,1,3,3-tetramethyl-octahydro-inden-4-one | 0.05 mol, 10 g | CC1(CC(C2C(CCCC12)=O)(C)C)C | C13H22O
reactant | formamidine acetate | 0.26 mol, 27 g | C(C)(=O)O.C(=N)N
catalyst | Pd/C | [Pd] | Pd
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 1,1,3,3-tetramethyl-2,3,3a,4,5,9b-hexahydro-1H-7,9-diaza-cyclopenta[a]naphthalene | ˜5 g | CC1(CC(C2C1C1=NC=NC=C1CC2)(C)C)C | C15H22N2
